US07893058B2
Step 3: 2-Fluoro-4-{8-[4-(1-methyl-piperidin-4-ylmethoxy)-phenylamino]-imidazo[1,2-a]pyrazin-5-yl}-benzamide
In the same way as described for Compound 178, step 4, using (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-amine (20 mg, 0.048 mmol), 2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide (25.5 mg, 0.10 mmol), Pd(PPh3)4 (13.9 mg, 0.001 mmol) and 1M Na2CO3 (0.8 mL) in dioxane (2 mL). Purification by silica gel column chromatography eluting with a mixture 95:5 followed by 90:10 DCM:MeOH affords a solid that was triturated with ethyl acetate to give the title compound (19.4 mg, 85%). LCMS: Rt 1.96min (94%), m/z (APCI) 475 (M+H)+; 1H-NMR (400 MHz, d6-DMSO) δ (ppm) 1.48-1.61 (2H, m), 1.98-2.02 (3H, m), 2.51-2.58 (4H, m), 2.70 (3H, br s), 3.91 (2H, d), 6.98 (2H, d), 7.55 (1H, s), 7.65-7.87 (6H, m), 7.98 (2H, d), 8.06 (1H, s), 9.68 (1H, s).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-amine | 0.048 mmol, 20 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)OCC2CCN(CC2)C | C19H22BrN5O
reactant | 2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | 0.10 mmol, 25.5 mg | FC1=C(C(=O)N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H17BFNO3
reactant | Na2CO3 | 1M, 0.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.001 mmol, 13.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-4-{8-[4-(1-methyl-piperidin-4-ylmethoxy)-phenylamino]-imidazo[1,2-a]pyrazin-5-yl}-benzamide | 19.4 mg, 85% | FC1=C(C(=O)N)C=CC(=C1)C1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)OCC2CCN(CC2)C | C26H27FN6O2
